US04241058
A mixture of 20.2 g of 4-tert.butyl-cyclohexane-1-carboxaldehyde, 52 g of (α-carbethoxy-ethylidene)-triphenyl-phosphorane and 3.6 g of benzoic acid in 120 ml of toluene is heated at reflux for 16 hours under nitrogen gasification and the toluene is evaported. The oily-crystalline residue is dissolved in 600 ml of methanol/water (4:1) and exhaustively extracted with hexane. The combined hexane extracts are washed with sodium bicarbonate solution and water, dried over sodium sulphate and evaporated. By distillation there is obtained pure 3-(4-tert.butyl-cyclohexyl)-2-methyl-acrylic acid ethyl ester of boiling point 99° C./0.03 Torr.

reactant | 4-tert.butyl-cyclohexane-1-carboxaldehyde | 20.2 g | C(C)(C)(C)C1CCC(CC1)C=O | C11H20O
reactant | (α-carbethoxy-ethylidene)-triphenyl-phosphorane | 52 g | C(=O)(OCC)C(C)=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H23O2P
reactant | benzoic acid | 3.6 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol water | 600 ml | CO.O
product | 3-(4-tert.butyl-cyclohexyl)-2-methyl-acrylic acid ethyl ester | C(C)OC(C(=CC1CCC(CC1)C(C)(C)C)C)=O | C16H28O2
